US09255110B2
Trichloroacetyl isocyanate (2.0 g) was added to a solution of methyl 3-amino-4-methylthiophene-2-carboxylate (1.3 g) in acetonitrile (10 mL) and the resulting mixture was stirred for 15 minutes. The solid, which crashed out, was collected by filtration and suspended in methanol (5 mL), a solution of ammonia in methanol (7 M, 5 mL) was then added and the resulting mixture was heated at 70° C. for 15 minutes. The reaction mixture was cooled, the solid formed was collected by filtration, dried under reduced pressure to give 0.8 g of 7-methyl-1H-thieno[3,2-d]pyrimidine-2,4-dione.

reactant | Trichloroacetyl isocyanate | 2.0 g | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | methyl 3-amino-4-methylthiophene-2-carboxylate | 1.3 g | NC1=C(SC=C1C)C(=O)OC | C7H9NO2S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 7-methyl-1H-thieno[3,2-d]pyrimidine-2,4-dione | 0.8 g | CC1=CSC2=C1NC(NC2=O)=O | C7H6N2O2S
